US07622471B2
Hexahydro-1H-1,4-diazepin-5-one hydrochloride
1M HCl in ethanol (7.2 mL) and 10% palladium-carbon (0.34 g) were added to 1-benzylhexahydro-1H-1,4-diazepin-5-one (1.490 g) in methanol (10 mL) at room temperature, and the resultant mixture was stirred in a hydrogen atmosphere for 4 hours. After the reaction atmosphere was purged with nitrogen, insoluble matter was removed by filtration. The solvent of the filtrate was evaporated under reduced pressure, and diethyl ether was added to the residue, and then the precipitated solid was recovered by filtration, to thereby give the title compound (1.045 g, 96%).

reactant | HCl | 1M | Cl | ClH
reactant | 1-benzylhexahydro-1H-1,4-diazepin-5-one | 1.490 g | C(C1=CC=CC=C1)N1CCNC(CC1)=O | C12H16N2O
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 7.2 mL | C(C)O | C2H6O
solvent | methanol | 10 mL | CO | CH4O
catalyst | palladium-carbon | 0.34 g | [C].[Pd]
product | Hexahydro-1H-1,4-diazepin-5-one hydrochloride | 1.045 g, 96% | Cl.N1CCNC(CC1)=O | InChI=1S/C5H10N2O.ClH/c8-5-1-2-6-3-4-7-5;/h6H,1-4H2,(H,7,8);1H
